US07592358B2
36.1b. 3-{5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]pyridin-2-yl}propan-1-ol
The product was obtained analogously to Example 7.1e starting from 3-(5-iodopyridin-2-yl)propan-1-ol and 5-(4-chlorophenyl)-2-ethynylpyridine. Yield: 0.80 g (74% of theoretical); C21H17ClN2O (M=348.825); calc.: molpeak (M+H)+: 349/351 (Cl); found: molpeak (M+H)+: 349/351 (Cl); HPLC-MS: 8.24 minutes (method A).

reactant | 3-(5-iodopyridin-2-yl)propan-1-ol | IC=1C=CC(=NC1)CCCO | C8H10INO
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 3-{5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]pyridin-2-yl}propan-1-ol | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=NC1)CCCO | C21H17ClN2O
